US08017779B2
The general methods described in Parts A and B of Example 2 were followed using 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol in lieu of 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline and 1-ethylimidazolidin-2-one in lieu of 2-pyrrolidinone. The product, 1-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]-3-ethylimidazolidin-2-one was isolated as a peach colored crystalline solid, m.p. 210-212° C.

reactant | 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)COCC | C17H20BrN3O2
reactant | 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | 1-ethylimidazolidin-2-one | C(C)N1C(NCC1)=O | C5H10N2O
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 1-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]-3-ethylimidazolidin-2-one | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)N2C(N(CC2)CC)=O | C22H30N6O3
